US08304419B2
To a solution of N-({3-[(3-bromo-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (320 mg, 0.513 mmol), potassium vinyl trifluoroborate (69.2 mg, 0.513 mmol) and TEA (0.214 ml, 1.539 mmol) in n-propanol (3 ml) was added 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) dichloromethane complex (84 mg, 0.103 mmol) and the reaction mixture was stirred at 100° C. for 4 hours. The mixture was adsorbed onto silica gel and the crude material was purified via silica gel chromatography to give 4-chloro-N-({4-chloro-3-[(3-chloro-5-ethenylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (246 mg, 0.431 mmol, 84% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.74 (t, 1H), 7.95 (s, 1H), 7.40-7.55 (m, 1H), 7.22-7.39 (m, 2H), 6.99 (s, 1H), 6.72-6.81 (m, 1H), 6.64 (dd, 1H), 5.89 (d, 1H), 5.46 (s, 2H), 5.32 (d, 1H), 4.45 (d, 2H), 3.35 (t, 2H), 0.72 (t, 2H), −0.12 (s, 9H).

reactant | N-({3-[(3-bromo-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.513 mmol, 320 mg | BrC=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl)F | C23H24BrCl3FN3O3Si
reactant | n-propanol | 3 ml | C(CC)O | C3H8O
product | 4-chloro-N-({4-chloro-3-[(3-chloro-5-ethenylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.431 mmol, 246 mg, 84% yield | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C=C)Cl)F)COCC[Si](C)(C)C | C25H27Cl3FN3O3Si
